US07507859B2
6-Bromo-4-chloromethyl-7-hydroxy-chroman-2-one (23)
4-Bromoresorcinol (15.12 g, 80 mmol) and ethyl 4-chloroacetoacetate (16.2 mL, 0.12 mmol) were stirred in 80 mL of conc. H2SO4 for six days. The reaction mixture was poured into crushed ice with stirring and the slurry stirred for 30 min. The crude product was then filtered and washed with cold water. It was then dissolved in ethyl acetate and washed with water, 5% aqueous sodium bicarbonate solution, water and saturated brine solution and dried over anhydrous Na2SO4. The ethyl acetate layer was concentrated to about 15 mL and the slurry cooled for 30 min and filtered to get the product (52%). The characterization data were consistent with the proposed structure.

reactant | 4-Bromoresorcinol | 80 mmol, 15.12 g | BrC1=C(C=C(O)C=C1)O | C6H5BrO2
reactant | ethyl 4-chloroacetoacetate | 0.12 mmol, 16.2 mL | ClCC(CC(=O)OCC)=O | C6H9ClO3
solvent | H2SO4 | 80 mL | OS(=O)(=O)O | H2O4S
product | 6-Bromo-4-chloromethyl-7-hydroxy-chroman-2-one | 52% | BrC=1C=C2C(CC(OC2=CC1O)=O)CCl | C10H8BrClO3
